US07531532B2
N-(4-Fluorophenyl)-N′-(3-fluoro-4-{2[(pyrrolidine-1-carbonyl)amino]pyridin-4-yloxy}phenyl)malonamide
4-(4-Amino-2-fluorophenoxy)-2-[(pyrrolidin-1-yl)carbonylamino]pyridine (47.8 mg) was dissolved in N,N-dimethylformamide (2 ml) under a nitrogen atmosphere, and then N-(4-fluorophenyl)malonic acid (89.3 mg), triethylamine (0.063 ml) and (1H-1,2,3-benzotriazol-1-yloxy)[tri(dimethylamino)]phosphonium hexafluorophosphate (200 mg) were added thereto at 50° C., followed by stirring at the same temperature for 1 hr. The reaction mixture was cooled down to room temperature, followed by further stirring overnight. The reaction mixture was partitioned between ethyl acetate and a 1 N aqueous solution of sodium hydroxide. The organic layer was washed with a saturated aqueous solution of sodium hydrogencarbonate, water and brine in this order, and dried over anhydrous sodium sulfate. The solvent was evaporated to give a residue, which was then purified by silica gel column chromatography (FUJI Silysia NH, eluent; ethyl acetate, then ethyl acetate:ethanol=95:5). Fractions containing the target compound were concentrated to give a residue, to which diethyl ether-hexane (1:1) was added to suspend. The solid was filtered off and dried under aeration to provide the titled compound (28.7 mg, 38.4%) as pale yellow powder.

reactant | 4-(4-Amino-2-fluorophenoxy)-2-[(pyrrolidin-1-yl)carbonylamino]pyridine | 47.8 mg | NC1=CC(=C(OC2=CC(=NC=C2)NC(=O)N2CCCC2)C=C1)F | C16H17FN4O2
reactant | triethylamine | 0.063 ml | C(C)N(CC)CC | C6H15N
reactant | (1H-1,2,3-benzotriazol-1-yloxy)[tri(dimethylamino)]phosphonium hexafluorophosphate | 200 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | diethyl ether hexane | C(C)OCC.CCCCCC
reactant | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | N-(4-Fluorophenyl)-N′-(3-fluoro-4-{2[(pyrrolidine-1-carbonyl)amino]pyridin-4-yloxy}phenyl)malonamide | 28.7 mg, 38.4% | FC1=CC=C(C=C1)NC(CC(=O)NC1=CC(=C(C=C1)OC1=CC(=NC=C1)NC(=O)N1CCCC1)F)=O | C25H23F2N5O4
